US07208524B2
Chlorosulfonic acid (2.05 mL) was added to 1.6 g of 2,2,2-trifluoro-N-[2-(4-isopropylphenyl)ethyl]acetamide, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into ice-water, and water was added to the mixture. The mixture was extracted with ethyl acetate, and the organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.463 g of 5-isopropyl-2-[2-(2,2,2-trifluoroacetyl-amino)ethyl]benzenesulfonyl chloride.

reactant | Chlorosulfonic acid | 2.05 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2,2,2-trifluoro-N-[2-(4-isopropylphenyl)ethyl]acetamide | 1.6 g | FC(C(=O)NCCC1=CC=C(C=C1)C(C)C)(F)F | C13H16F3NO
solvent | water | O | H2O
product | 5-isopropyl-2-[2-(2,2,2-trifluoroacetyl-amino)ethyl]benzenesulfonyl chloride | 0.463 g | C(C)(C)C=1C=CC(=C(C1)S(=O)(=O)Cl)CCNC(C(F)(F)F)=O | C13H15ClF3NO3S
